Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
sulfa
 
Attending: ___
 
Chief Complaint:
Bladder Cancer
 
Major Surgical or Invasive Procedure:
___: robotic cystectomy, ileal conduit creation
___: stoma revision

 
History of Present Illness:
___ with muscle invasive bladder cancer
 
Past Medical History:
Past medical history is otherwise remarkable for breast cancer,
bronchitis and stone disease.

Surgical History:  Cholecystectomy and breast lumpectomy.

Obstetric History:  Three pregnancies, two live births, both
vaginal deliveries.
 
Social History:
___
Family History:
Family History:  Diabetes.
 
Physical Exam:
WdWn, NAD, AVSS
Abdomen soft, appropriately tender along incision
Incision is c/d/I
Stoma is well perfused; Urine color is yellow
Ureteral stents noted via stoma
JP drain has been removed
Bilateral lower extremities are warm, dry, well perfused.  There 
is no reported calf pain to deep palpation. No edema or pitting
 
Pertinent Results:
___ 06:30AM BLOOD WBC-11.3* RBC-2.85* Hgb-8.7* Hct-28.7* 
MCV-101* MCH-30.5 MCHC-30.3* RDW-13.0 RDWSD-48.0* Plt ___
___ 06:10AM BLOOD WBC-14.8* RBC-3.10* Hgb-9.5* Hct-31.6* 
MCV-102* MCH-30.6 MCHC-30.1* RDW-13.1 RDWSD-49.0* Plt ___
___ 09:40AM BLOOD WBC-12.5* RBC-3.34* Hgb-10.3* Hct-33.8* 
MCV-101* MCH-30.8 MCHC-30.5* RDW-12.8 RDWSD-47.9* Plt ___

___ 06:50AM BLOOD Glucose-106* UreaN-13 Creat-0.7 Na-141 
K-3.8 Cl-104 HCO3-24 AnGap-13
___ 06:30AM BLOOD Glucose-139* UreaN-15 Creat-0.8 Na-146* 
K-4.0 Cl-107 HCO3-27 AnGap-12
___ 09:40AM BLOOD Glucose-161* UreaN-16 Creat-1.1 Na-143 
K-4.9 Cl-104 HCO3-26 AnGap-13
___ 07:08AM BLOOD Calcium-8.2* Mg-2.4

___ 10:09AM ASCITES Creat-0.7
___ 07:46AM ASCITES Creat-0.7
___ 03:47AM OTHER BODY FLUID Creat-1.0
 
Brief Hospital Course:
Ms. ___ was admitted to the Urology service after undergoing 
robot assisted laparoscopic radical cystectomy with bilateral 
pelvic lymphadenectomy and creation of an ileal conduit urinary 
diversion and robot-assisted laparoscopic total abdominal
hysterectomy. No concerning intrao-perative events occurred; 
please see dictated operative note for details. Patient received 
___ intravenous antibiotic prophylaxis and deep vein 
thrombosis prophylaxis with subcutaneous heparin. The 
post-operative course was complicated by the need to return to 
the OR on POD1 for exam under anesthesia, stoma revision. 
Necessitated by the dusky-appearing urostomy. Again she was 
recovered in the PACU before transfer to the general surgical 
floor where she remained until discharge. With the eventual 
passage of flatus, diet was gradually advanced and the patient 
was transitioned from IV pain medication to oral pain 
medications. The ostomy nurse saw the patient for ostomy 
teaching. At the time of discharge the wound was healing well 
with no evidence of erythema, swelling, or purulent drainage. 
The ostomy was perfused and patent and the ureteral stents were 
visible. Post-operative follow up appointments were 
arranged/discussed and the patient was discharged home with 
visiting nurse services to further assist the transition to home 
with ostomy care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 100 mg PO QHS:PRN insomnia 
2. Omeprazole 20 mg PO DAILY 
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin [Lovenox] 40 mg/0.4 mL 40 mg SubQ Daily Disp #*30 
Syringe Refills:*0 
4.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg one tablet(s) by mouth q8hrs Disp #*30 
Tablet Refills:*0 
5.  Miconazole Powder 2% 1 Appl TP BID:PRN groin rash  
6.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg one 
capsule(s) PO daily Disp #*14 Capsule Refills:*0 
7.  Omeprazole 20 mg PO DAILY  
8.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hs Disp #*30 Tablet 
Refills:*0 
9.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Muscle invasive bladder cancer
ischemic stoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the instructions provided to you by the 
Ostomy nurse specialist that details the required care and 
management of your Urostomy

-You will be sent home with Visiting Nurse ___ 
services to facilitate your transition to home,  care of your 
urostomy, Lovenox injections, etc.

-Lovenox is an injection that you will use once daily to reduce 
your risk of dangerous blood clot. Please follow the provided 
instructions on administration and disposal of syringes/needles 
("sharps").

-Resume your pre-admission/home medications except as noted. 
Always call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-UNLESS OTHERWISE NOTED; AVOID aspirin or aspirin containing 
products and supplements that may have “blood-thinning” effects 
(like Fish Oil, Vitamin E, etc.).  This will be noted in your 
medication reconciliation. 

IF PRESCRIBED (see the MEDICATION RECONCILIATION):
-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  

For pain control, try TYLENOL (acetaminophen) FIRST, then 
ibuprofen, and then take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___.

-Max daily Tylenol (acetaminophen) dose is THREE to FOUR grams 
from ALL sources

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___